US04659708
B. N-[6-(3,5-Dimethyl-1-piperazinyl)hexyl]-6-methoxy-4-methyl-8-quinolinamine, trihydrochloride
A cold slurry (-40°) of 1.5 g (0.011 mole) of anhydrous aluminum chloride in 80 ml of tetrahydrofuran was added to a cold (-40°) suspension of 1.1 g (0.029 mole) of lithium aluminum hydride in 40 ml of tetrahydrofuran and the mixture was stirred and allowed to warm to -20°. To it was added dropwise a solution of 3.54 g (0.0085 mole) of N-(6-methoxy-4-methyl-8-quinolinyl)-3,5-dimethyl-1-piperazinehexanamide in 100 ml of tetrahydrofuran. The reaction mixture was stirred for 1 hr and stored at 4° overnight. Then to the mixture were added 6.5 ml of 30% sodium hydroxide solution and enough water to cause a sticky precipitate to separate. The supernatant was filtered, concentrated in vacuo to remove most of the tetrahydrofuran and diluted with dichloromethane and water. The dichloromethane was separated, washed, dried, and concentrated in vacuo. The residue was chromatographed over 175 g of silica gel eluting with a liter each of the following solutions of methanol in ethyl acetate: 1%, 3%, 5%, 7%, 9% and 10%. Fractions containing product, Rf(silica--75 parts of ethyl acetate:25 parts of methanol:1 part of triethylamine)=0.33, were combined and concentrated to dryness. A solution of the residue in 2-propanol was treated with an excess of a 15% solution of hydrogen chloride in 2-propanol and chilled overnight. The resulting precipitate was collected, washed with 2-propanol and ether, dried in vacuo at 55° and allowed to air-equilibrate to afford 1.9 g (41%) of the title compound, mp 120°-180° (dec).

reactant | aluminum chloride | 0.011 mole, 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.029 mole, 1.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(6-methoxy-4-methyl-8-quinolinyl)-3,5-dimethyl-1-piperazinehexanamide | 0.0085 mole, 3.54 g | COC=1C=C2C(=CC=NC2=C(C1)NC(CCCCCN1CC(NC(C1)C)C)=O)C | C23H34N4O2
reactant | sodium hydroxide | 6.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[6-(3,5-Dimethyl-1-piperazinyl)hexyl]-6-methoxy-4-methyl-8-quinolinamine, trihydrochloride | 1.9 g, 41% | Cl.Cl.Cl.CC1CN(CC(N1)C)CCCCCCNC=1C=C(C=C2C(=CC=NC12)C)OC | InChI=1S/C23H36N4O.3ClH/c1-17-9-11-25-23-21(17)13-20(28-4)14-22(23)24-10-7-5-6-8-12-27-15-18(2)26-19(3)16-27;;;/h9,11,13-14,18-19,24,26H,5-8,10,12,15-16H2,1-4H3;3*1H
